US08865752B2
A mixture of 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine (50 mg, 0.151 mmol) and carbonyldiimidazole (50 mg, 30 mmol) in DCM was stirred at RT for 5 h. Aqueous ammonia was added and the reaction was stirred over night. The reaction was diluted with water and extracted with DCM. The combined organic extracts were dried over Na2SO4, and concentrated in vacuo. The residue was purified by preparative TLC to afford 1-(6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)urea. MS ESL m/z 359.27 [M+1+].

reactant | 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | 0.151 mmol, 50 mg | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC)C | C16H21N5S
reactant | carbonyldiimidazole | 30 mmol, 50 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | N | H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)urea | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)NC(=O)N)C=C1)CC)C | C17H22N6OS
